US05175166
Isopropyl 1,4,5,6-Tetrahydropyrimidine-5-carboxylate Hydrochloride
1,4,5,6-Tetrahydropyrimidine-5-carboxylic acid hydrochloride (1.0 g, 6.08 mmol) was suspended in 2-propanol (50 ml) and thionyl chloride (0.76 g, 6.39 mmol) was added dropwise. The resulting mixture was refluxed 24 h. The pink solution was treated with charcoal and then reduced in volume to 15 ml by evaporating unreacted alcohol. By allowing the solution to stand overnight, white crystals (1.08 g, 84%) were obtained in three crops, mp 170° C. 300 MHz nmr confirmed product. Microanalysis calc.: C 46.49, H 7.26, N 13.56, found: C 46.49, H 7.25, N 13.64.

reactant | 1,4,5,6-Tetrahydropyrimidine-5-carboxylic acid hydrochloride | 6.08 mmol, 1.0 g | Cl.N1C=NCC(C1)C(=O)O
reactant | thionyl chloride | 6.39 mmol, 0.76 g | S(=O)(Cl)Cl | Cl2OS
reactant | charcoal | C | CH4
reactant | 2-propanol | 50 ml | CC(C)O | C3H8O
product | Isopropyl 1,4,5,6-Tetrahydropyrimidine-5-carboxylate Hydrochloride | 1.08 g, 84% | Cl.N1C=NCC(C1)C(=O)OC(C)C | InChI=1S/C8H14N2O2.ClH/c1-6(2)12-8(11)7-3-9-5-10-4-7;/h5-7H,3-4H2,1-2H3,(H,9,10);1H
